datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Cc1ccc(C[NH:10]C)cc1.O=C1N[C@@H](Cc2c[n+:21]([H:20])c[nH]2)C(=O)N[C@H]1Cc1cnc[nH]1>>Cc1ccc(C[NH+:10](C)[H:20])cc1.O=C1N[C@@H](Cc2c[n:21]c[nH]2)C(=O)N[C@H]1Cc1cnc[nH]1 10=20;20,21=21",
"CC(=O)Nc1ccc2cc3ccccc3[n+:21]([H:20])c2c1.CCOC(=O)C(=N[O-:10])C(=O)OCC>>CC(=O)Nc1ccc2cc3ccccc3[n:21]c2c1.CCOC(=O)C(=N[O:10][H:20])C(=O)OCC 10=20;20,21=21",
"Cc1c(Br)cc([NH2+:21][H:20])cc1Br.O=C([O-])[C@@H]1O[C@H](Oc2cccc3ccc[n:10]c23)[C@@H](O)[C@H](O)[C@H]1O>>Cc1c(Br)cc([NH2:21])cc1Br.O=C([O-])[C@@H]1O[C@H](Oc2cccc3ccc[n+:10]([H:20])c23)[C@@H](O)[C@H](O)[C@H]1O 10=20;20,21=21",
"Cc1ncc(CO)c(C)c1[O-:10].O=S(=O)([O-])c1cc([O:21][H:20])cc2[nH]ncc12>>Cc1ncc(CO)c(C)c1[O:10][H:20].O=S(=O)([O-])c1cc([O-:21])cc2[nH]ncc12 10=20;20,21=21",
"CCNc1sc(c2ccccc2)n[n:10]1.[H:20][PH3+:21]>>CCNc1sc(c2ccccc2)n[n+:10]1[H:20].[PH3:21] 10=20;20,21=21",
"CCc1cccc[n:10]1.Cc1ccc(C(O)C(C(=O)[O:21][H:20])c2ccc(C3CCCCC3)cc2)cc1>>CCc1cccc[n+:10]1[H:20].Cc1ccc(C(O)C(C(=O)[O-:21])c2ccc(C3CCCCC3)cc2)cc1 10=20;20,21=21",
"CC[NH:10]CCCC(=O)[O-].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC[NH+:10](CCCC(=O)[O-])[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C([O-])C[NH:10]CCc1nnn[n-]1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>O=C([O-])C[NH+:10](CCc1nnn[n-]1)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"Cc1c(Br)cc([NH2+:21][H:20])cc1Br.[O-]N=C1C(=NO)CCC/C1=N\[O-:10]>>Cc1c(Br)cc([NH2:21])cc1Br.[O-]N=C1C(=NO)CCC/C1=N\[O:10][H:20] 10=20;20,21=21",
"C[NH:10][C@H]1CCCC[C@@H]1O.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>C[NH+:10]([C@H]1CCCC[C@@H]1O)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CC[NH:10]C(C)C(=O)[O-].C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CC[NH+:10](C(C)C(=O)[O-])[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CC[C@]12CCC[N+:21]3([H:20])CC[C@@]4(c5cccc(OC)c5N[C@H]4CC1)[C@H]23.COc1cc(S(C)(=O)=O)cc(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N:10]3Cc2ccccc2)c1OC>>CC[C@]12CCC[N:21]3CC[C@@]4(c5cccc(OC)c5N[C@H]4CC1)[C@H]23.COc1cc(S(C)(=O)=O)cc(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N+:10]3(Cc2ccccc2)[H:20])c1OC 10=20;20,21=21",
"CC(C)(C(=O)[O-])c1c[nH]c(CO)[n+:21]1[H:20].C[NH+]1CSCC1C(=O)[O-:10]>>CC(C)(C(=O)[O-])c1c[nH]c(CO)[n:21]1.C[NH+]1CSCC1C(=O)[O:10][H:20] 10=20;20,21=21",
"CC1=CSC2=[N:10]CCN12.O=[N+]([O-])c1cc([N+](=O)[O-])c([NH2+:21][H:20])c([N+](=O)[O-])c1>>CC1=CSC2=[N+:10]([H:20])CCN12.O=[N+]([O-])c1cc([N+](=O)[O-])c([NH2:21])c([N+](=O)[O-])c1 10=20;20,21=21",
"Cc1cc(C(=O)[O:21][H:20])ccc1[N+](=O)[O-].Cc1ccc(Sc2ccc([N+](=O)[O-])cc2C(=O)[O-:10])cc1>>Cc1cc(C(=O)[O-:21])ccc1[N+](=O)[O-].Cc1ccc(Sc2ccc([N+](=O)[O-])cc2C(=O)[O:10][H:20])cc1 10=20;20,21=21",
"CC(C)[NH:10][C@H](c1ccccc1)[C@H](O)c1ccccc1.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CC(C)[NH+:10]([C@H](c1ccccc1)[C@H](O)c1ccccc1)[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"NS(=O)(=O)c1ccc(P(=O)(O)[O-:10])cc1.c1ccc2c(c1)CCC[NH+:21]2[H:20]>>NS(=O)(=O)c1ccc(P(=O)(O)[O:10][H:20])cc1.c1ccc2c(c1)CCC[NH:21]2 10=20;20,21=21",
"O=C(C(F)(F)F)[O-:10].Oc1ccc2ccc[n+:21]([H:20])c2c1>>O=C(C(F)(F)F)[O:10][H:20].Oc1ccc2ccc[n:21]c2c1 10=20;20,21=21",
"C1CSCC[NH:10]CCN1.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>C1CSCC[NH+:10]([H:20])CCN1.C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CC1(C)NC(=O)[N:21]([H:20])C1=O.Clc1ccc2c(c1)nn[n-:10]2>>CC1(C)NC(=O)[N-:21]C1=O.Clc1ccc2c(c1)nn[n:10]2[H:20] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].OCCCCCC[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.OCCCCCC[NH2+:10][H:20] 10=20;20,21=21",
"CCCCB(O)[O-:10].c1ccc(-c2[nH]c3ccccc3[n+:21]2[H:20])nc1>>CCCCB(O)[O:10][H:20].c1ccc(-c2[nH]c3ccccc3[n:21]2)nc1 10=20;20,21=21",
"CCc1nc(CC)[n-:10]n1.[O-]c1cc2ccccc2cc1C1=[N+:21]([H:20])CCN1>>CCc1nc(CC)[n:10]([H:20])n1.[O-]c1cc2ccccc2cc1C1=[N:21]CCN1 10=20;20,21=21",
"CCCOC(=O)c1ccc([O:21][H:20])cc1.O=C(c1csc(Br)c1)[O-:10]>>CCCOC(=O)c1ccc([O-:21])cc1.O=C(c1csc(Br)c1)[O:10][H:20] 10=20;20,21=21",
"CCCCN(C(=O)c1cccc([O:21][H:20])c1)c1ccc(/N=N/c2ccc3c(c2)OCCOCCOCCOCCOCCO3)cc1.O=C(CCc1ccccc1)[O-:10]>>CCCCN(C(=O)c1cccc([O-:21])c1)c1ccc(/N=N/c2ccc3c(c2)OCCOCCOCCOCCOCCO3)cc1.O=C(CCc1ccccc1)[O:10][H:20] 10=20;20,21=21",
"O=C(C1c2ccccc2-c2ccccc21)[O-:10].c1c[nH]c(P(c2ncc[nH]2)c2[nH]cc[n+:21]2[H:20])n1>>O=C(C1c2ccccc2-c2ccccc21)[O:10][H:20].c1c[nH]c(P(c2ncc[nH]2)c2[nH]cc[n:21]2)n1 10=20;20,21=21",
"Clc1cccc2c1nnn2[O:21][H:20].c1cc([C@@H]2CCCN2)nc([C@@H]2CCC[NH:10]2)c1>>Clc1cccc2c1nnn2[O-:21].c1cc([C@@H]2CCCN2)nc([C@@H]2CCC[NH+:10]2[H:20])c1 10=20;20,21=21",
"O=C([O-])C1CCCN1C(=O)C[NH2:10].O=[N+]([O-])c1ccc(S(=O)(=O)[NH:21][H:20])cc1>>O=C([O-])C1CCCN1C(=O)C[NH2+:10][H:20].O=[N+]([O-])c1ccc(S(=O)(=O)[NH-:21])cc1 10=20;20,21=21",
"CC1=NS(=O)(=O)c2cnccc2[N-:10]1.Oc1ccccc1C[N+:21]1([H:20])CCCC1>>CC1=NS(=O)(=O)c2cnccc2[N:10]1[H:20].Oc1ccccc1C[N:21]1CCCC1 10=20;20,21=21",
"N/C(Nc1nccc(-c2csc(N)n2)n1)=[NH+:21]\[H:20].NCc1nc2ccccc2[n-:10]1>>NC(Nc1nccc(-c2csc(N)n2)n1)=[NH:21].NCc1nc2ccccc2[n:10]1[H:20] 10=20;20,21=21",
